US06465467B1
Step 2: 2-(2-Phenoxyethoxy)-3-(1-piperazinyl)quinoxaline, Hydrochloride.
The title compound was prepared according to the procedure described in Example 1, Step 2, starting from 2-chloro-3-(2-phenoxyethoxy)quinoxaline (0.65 g, 2.15 mmol): yield 0.44 g (58%) as the free base. A portion of the free base was converted to its hydrochloride salt: mp 123-126° C.; HRMS m/z calcd for C20H22N4O2 (M)+ 350.1743, found 350.1748. Anal. (C20H22N4O2 1.75 HCl. 0.5 H2O) C, H, N.

reactant | 2-chloro-3-(2-phenoxyethoxy)quinoxaline | 2.15 mmol, 0.65 g | ClC1=NC2=CC=CC=C2N=C1OCCOC1=CC=CC=C1 | C16H13ClN2O2
solvent | H2O | O | H2O
product | 2-(2-Phenoxyethoxy)-3-(1-piperazinyl)quinoxaline, Hydrochloride | Cl.O(C1=CC=CC=C1)CCOC1=NC2=CC=CC=C2N=C1N1CCNCC1 | InChI=1S/C20H22N4O2.ClH/c1-2-6-16(7-3-1)25-14-15-26-20-19(24-12-10-21-11-13-24)22-17-8-4-5-9-18(17)23-20;/h1-9,21H,10-15H2;1H
